US05030736
6-Acetoxy-2-acetyl-7-(4-trifluoromethylbenzamido)-5,6-dihydro-5,5-dimethyl-7H-thieno[3,2-b]pyran
The title compound was prepared as described in Example 6 starting with 7-(4-trifluoromethylbenzamido)-5,6-dihydro-6-hydroxy-5,5-dimethyl-7H-thieno[3,2-b]pyran (1.5 g, 4.04 mmol), perchloric acid (70%, 10 drops) and acetic anhydride (20 ml) to give the product after crystallization from dichloromethane and hexanes 0.382 g (21%) as a colorless solid; mp 225°-227° C.; IR (KBr):1755, 1668, 1654, 1541 and 1471 cm-1 ; MS=m/z 456 (MH+);1H NMR (CDCl3): δ1.41(s,3H), 1.43(s,3H), 2.13(s,3H), 2.47(s,3H), 5.17(d,J=9.3 Hz,1H), 5.42(m,1H), 6.77(bd,J=7.9 Hz,1H), 7.14(s,1H), 7.72(d,J=8.3 Hz, 2H) and 7.88(d,J=8.3 Hz,2H).

reactant | 7-(4-trifluoromethylbenzamido)-5,6-dihydro-6-hydroxy-5,5-dimethyl-7H-thieno[3,2-b]pyran | 4.04 mmol, 1.5 g | FC(C1=CC=C(C(=O)NC2C3=C(OC(C2O)(C)C)C=CS3)C=C1)(F)F | C17H16F3NO3S
catalyst | perchloric acid | 10 drops | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-Acetoxy-2-acetyl-7-(4-trifluoromethylbenzamido)-5,6-dihydro-5,5-dimethyl-7H-thieno[3,2-b]pyran | C(C)(=O)OC1C(C2=C(OC1(C)C)C=C(S2)C(C)=O)NC(C2=CC=C(C=C2)C(F)(F)F)=O | C21H20F3NO5S
